US04604128
A solution of ethyl 4-(2-formyl-3,4,5,6-tetramethylphenyl)butyrate (5 g) and 1-triphenylphosphoranylidene-2-propanone (6 g) in toluene (100 ml) was boiled under reflux for 24 hours. The toluene was removed by evaporation under reduced pressure and the residue was purified by column chromatography on silica gel (eluant chloroform) to give ethyl 4-[2-(3-oxo-1-butenyl)-3,4,5,6-tetramethylphenyl]butyrate (5 g) as a pale brown oil. Proton nuclear magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.24 (3H,t); 1.6-2.0 (2H,m); 2.1-2.4 (14H,m); 2.40 (3H,s); 2.5-2.8 (2H,m); 4.11 (2H,q); 6.12 (1H,d); 7.71 (1H,d).

reactant | ethyl 4-(2-formyl-3,4,5,6-tetramethylphenyl)butyrate | 5 g | C(=O)C1=C(C(=C(C(=C1C)C)C)C)CCCC(=O)OCC | C17H24O3
reactant | 1-triphenylphosphoranylidene-2-propanone | 6 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-[2-(3-oxo-1-butenyl)-3,4,5,6-tetramethylphenyl]butyrate | 5 g | O=C(C=CC1=C(C(=C(C(=C1C)C)C)C)CCCC(=O)OCC)C | C20H28O3
